US08044062B2
(E)-Ethyl 3-(4-(isopropylamino)-6-methyl-2-(methylthio)pyrimidin-5-yl)acrylate (2.5 g, 8.46 mmol) was dissolved in acetic acid by gentle warming. Sample was placed in microwave reactor for 6 h at 180° C., 300 W, and 200 PSI. The product was purified by silica gel column chromatography eluting with 20% ethyl acetate/hexane. Desired fractions were combined and reduced into 8-isopropyl-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one as a yellow powder (1.20 g, 57% yield) which was then dried under heavy vacuum overnight. 1H NMR (400 MHz, CDCl3) δ 7.74 (d, J=9.6, 1H), 6.58 (d, J=9.6, 1H), 5.84 (br s, 1H), 2.65 (s, 3H), 2.63 (s, 3H), 1.63 (d, J=6.8, 6H).

reactant | (E)-Ethyl 3-(4-(isopropylamino)-6-methyl-2-(methylthio)pyrimidin-5-yl)acrylate | 8.46 mmol, 2.5 g | C(C)(C)NC1=NC(=NC(=C1/C=C/C(=O)OCC)C)SC | C14H21N3O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-isopropyl-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 1.20 g, 57% yield | C(C)(C)N1C(C=CC2=C1N=C(N=C2C)SC)=O | C12H15N3OS
